US04628057
(3RS)-2-[(Phenylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid
(3RS)-1,2,3,4-Tetrahydro-β-carboline-3-carboxylic acid (3.24 g) is dissolved in dimethylsulfoxide (9 ml) and thereto is added 10N NaOH (33 ml) and further added carbon disulfide (0.91 ml) at room temperature. The mixture is stirred at room temperature for one hour, and to the mixture is added benzenediazonium chloride which is prepared from aniline (1.49 g), NaNO2 (1.15 g), conc. HCl (4.8 ml) and water (18.5 ml), and the mixture is stirred at 10° C. for one hour. The reaction mixture is treated in the same manner as described in Example 32. The product is crystallized from ethanol to give the title compound (676 mg) as pale yellow prisms, m.p. 167°-168° C. (decomp.).

reactant | (3RS)-1,2,3,4-Tetrahydro-β-carboline-3-carboxylic acid | 3.24 g | C1NC(CC=2C3=CC=CC=C3NC12)C(=O)O | C12H12N2O2
reactant | NaOH | 10N, 33 ml | [OH-].[Na+]
reactant | benzenediazonium chloride | [Cl-].C1(=CC=CC=C1)[N+]#N
reactant | aniline | 1.49 g | NC1=CC=CC=C1 | C6H7N
reactant | NaNO2 | 1.15 g | N(=O)[O-].[Na+]
reactant | HCl | 4.8 ml | Cl | ClH
reactant | carbon disulfide | 0.91 ml | C(=S)=S | CS2
solvent | dimethylsulfoxide | 9 ml | CS(=O)C | C2H6OS
solvent | water | 18.5 ml | O | H2O
product | (3RS)-2-[(Phenylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 676 mg | C1(=CC=CC=C1)SC(=S)N1CC=2NC3=CC=CC=C3C2CC1C(=O)O | C19H16N2O2S2
